US07645771B2
To a stirred solution of 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole (20 mg, 0.047 mmol) in THF (2 mL) was added isopropyl isocyanate (4.3 mg, 0.047 mmol). The resulting mixture was stirred at ambient temperature overnight. After evaporation of the solvent, the residue was purified on silical gel, eluting with a gradient of 10-30% methanol in ethyl acetate to afford N-isopropyl-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboxamide as white solid (15 mg, 63%). 1H NMR (300 MHz, CDCl3) δ 7.70 (d, J=7.2 Hz, 1H), 7.43-7.38 (m, 2H), 7.34-7.24 (m, 4H), 7.22-7.15 (m, 2H), 4.67 (br, 1H), 4.24 (d, J=7.3 Hz, 1H), 3.99 (m, 1H), 3.62-3.58 (m, 2H), 3.30 (br, 2H), 3.23-3.16 (m, 2H), 2.62 (s, 3H), 2.42 (br, 2H), 2.25-2.20 (m, 2H), 1.98-1.83 (m, 9H), 1.68 (br, 2H), 1.17 (d, J=6.4 Hz, 6H). HRMS m/z (M+H)+ calcd: 514.3546, obsd: 514.3530.

reactant | 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole | 0.047 mmol, 20 mg | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2 | C28H36N4
reactant | isopropyl isocyanate | 0.047 mmol, 4.3 mg | C(C)(C)N=C=O | C4H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-isopropyl-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboxamide | 15 mg, 63% | C(C)(C)NC(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C32H43N5O
